US08748632B2
5-Borono-2-chlorobenzoic acid (200 mg, 1 mmol), 3-iodophenylboronic acid (125 mg, 0.5 mmol), K2CO3 (207 mg, 1.5 mmol) and PdCl2(PPh3)2 (37 mg, 0.05 mmol) were dissolved in a mixture of toluene-MeOH (17 mL:1.7 mL) and heated at 75° C. for 3 hours. The mixture was filtered through celite washed with water and the solvent was evaporated in vacuo. The formed crude residue was acidified with 2 M HCl and extracted into EtOAc and dried over anhyd. Na2SO4, evaporated solvent in vacuo to obtain crude 3′-borono-4-chlorobiphenyl-3-carboxylic acid as a reddish brown solid. The crude product was used for the next step without further purification.

reactant | 5-Borono-2-chlorobenzoic acid | 1 mmol, 200 mg | B(O)(O)C=1C=CC(=C(C(=O)O)C1)Cl | C7H6BClO4
reactant | 3-iodophenylboronic acid | 0.5 mmol, 125 mg | IC=1C=C(C=CC1)B(O)O | C6H6BIO2
reactant | K2CO3 | 1.5 mmol, 207 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 2 M | Cl | ClH
solvent | toluene MeOH | 17 mL | C1(=CC=CC=C1)C.CO
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 37 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3′-borono-4-chlorobiphenyl-3-carboxylic acid | B(O)(O)C=1C=C(C=CC1)C1=CC(=C(C=C1)Cl)C(=O)O | C13H10BClO4
